US04487764
(a) Z-Tyr(But)-Phe-OMe
13 ml of N-ethylmorpholine and 22 g of DCC are added at 0° C. to a solution of 40.7 g (0.1 mmole) of Z-Tyr(But)-OH, 21.6 g of H-Phe-OMe hydrochloride and 13.5 g (0.1 mmole) of HOBt in 200 ml of dimethylformamide. The mixture is worked up as in the case of Example 1 a. The residue is triturated with petroleum ether and suction-drained. Yield 50.3 g (94%), melting point 103°-104° C., [α]D24 =-12.3° (c=1, methanol).

reactant | N-ethylmorpholine | 13 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 22 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Z-Tyr(But)-OH | 0.1 mmole, 40.7 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H25NO5
reactant | H-Phe-OMe hydrochloride | 21.6 g | N[C@@H](CC1=CC=CC=C1)C(=O)OC.Cl
reactant | HOBt | 0.1 mmole, 13.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | Z-Tyr(But)-Phe-OMe | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C31H36N2O6
